US06495560B1
a) Ethyl (S)-10,11-dihydro-3-[2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetate
To a solution of ethyl (S)-10,11 -dihydro-3-hydroxy-5H-dibenzo[a,d]cycloheptene-10-acetate (200 mg, 0.67 mmole), 2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)-1 -ethanol (241 mg, 1.35 mmole), and PPh3 (354 mg, 1.35 mmole) in dry THF (5 mL) was added diisopropyl azodicarboxylate (0.27 mL, 1.35 mmole) at 0° C. The mixture was allowed to warm to RT as the bath warmed. After 18 hr, the mixture was concentrated under reduced pressure. The residue was chromatographed on silica gel (1:4.5 hexanes/Et2O) to give the title compound (94 mg, 31%) as a clear oil: MS (ES) m/e 457 (M+H)+.

reactant | ethyl (S)-10,11 -dihydro-3-hydroxy-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.67 mmole, 200 mg | OC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)OCC)C=CC=C3)C1 | C19H20O3
reactant | 2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)-1 -ethanol | 1.35 mmole, 241 mg | N1=C(C=CC=2CCCNC12)CCO | C10H14N2O
reactant | PPh3 | 1.35 mmole, 354 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.35 mmole, 0.27 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl (S)-10,11-dihydro-3-[2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | 94 mg, 31% | N1=C(C=CC=2CCCNC12)CCOC=1C=CC2=C(CC3=C([C@@H](C2)CC(=O)OCC)C=CC=C3)C1 | C29H32N2O3
